US08877960B2
A 300 mL reactor was charged with 11.0 g (purity 75%, 30 mmol) of sodium 1,1,2,2-tetrafluoro-6-hydroxyhexanesulfonate, 75 ml of acetonitrile, 1 mg of NONFLEX MBP, and 9.2 g (60 mmol/2.0 equivalents) of methacrylic anhydride in order, followed by putting it into an ice bath. 9.2 g (90 mmol/3.0 equivalents) of triethylamine was added thereto dropwise. After the dropping, stirring was conducted at room temperature for 6 hours. The organic layer of the reaction liquid was analyzed by using a nuclear magnetic resonator (NMR). With this, conversion was 55%. Then, furthermore 9.2 g (60 mmol/2.0 equivalents) of methacrylic anhydride was added. The temperature was raised to 40° C., and the reaction was conducted for 12 hours. Conversion was, however, stopped at 80%. Then, 40 mL of water was added, and acetonitrile was distilled out. The obtained aqueous layer was washed two times with 15 mL of isopropyl ether to try to obtain the target sodium 1,1,2,2-tetrafluoro-6-methacryloyloxyhexanesulfonate. It was, however, difficult to conduct a separation from the raw material sodium 1,1,2,2-tetrafluoro-6-hydroxyhexanesulfonate.

reactant | sodium 1,1,2,2-tetrafluoro-6-hydroxyhexanesulfonate | 30 mmol, 11.0 g | FC(C(CCCCO)(F)F)(S(=O)(=O)[O-])F.[Na+]
reactant | acetonitrile | 75 ml | C(C)#N | C2H3N
reactant | methacrylic anhydride | 60 mmol, 9.2 g, 2.0 equivalents | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | triethylamine | 90 mmol, 9.2 g, 3.0 equivalents | C(C)N(CC)CC | C6H15N
reactant | methacrylic anhydride | 60 mmol, 9.2 g, 2.0 equivalents | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
solvent | water | 40 mL | O | H2O
product | sodium 1,1,2,2-tetrafluoro-6-methacryloyloxyhexanesulfonate | FC(C(CCCCOC(C(=C)C)=O)(F)F)(S(=O)(=O)[O-])F.[Na+] | InChI=1S/C10H14F4O5S.Na/c1-7(2)8(15)19-6-4-3-5-9(11,12)10(13,14)20(16,17)18;/h1,3-6H2,2H3,(H,16,17,18);/q;+1/p-1
